US06025375
To a solution of (+)-(5S)-1-(4,5-diphenyloxazol-2-yl)-5-(3-methoxybenzyl)cyclopentene (2.33 g) in methylene chloride (10 ml), was added boron tribromide in methylene chloride (1M, 9 ml) at 0C. After 3.5 hours stirring at the same temperature, the reaction mixture was washed with water and saturated aqueous sodium hydrogencarbonate. Drying (sodium sulfate) and removal of solvent afforded a yellow syrup containing (+)-(5S)-1-(4,5-diphenyloxazol-2-yl)-5-(3-hydroxybenzyl)cyclopentene. An acetonitrile solution (20 ml) of the yellow syrup, potassium carbonate (1.30 g), methyl bromoacetate (0.98 g) and potassium iodide (a catalytic amount) was stirred under reflux for 3.5 hours. The solvent was evaporated in vacuo and the residue was partitioned between ethyl acetate and 1N hydrochloric acid. The organic layer was washed with 1N hydrochloric acid, water and brine. Drying (sodium sulfate) and removal of solvent at reduced pressure followed by flash chromatography over 50 g of silica afforded (+)-methyl [3-[[(1S)-2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl]phenoxy]acetate (2.10 g, 98.2% ee) as a yellow oil.

reactant | (+)-(5S)-1-(4,5-diphenyloxazol-2-yl)-5-(3-methoxybenzyl)cyclopentene | 2.33 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1=CCC[C@H]1CC1=CC(=CC=C1)OC | C28H25NO2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | (+)-(5S)-1-(4,5-diphenyloxazol-2-yl)-5-(3-hydroxybenzyl)cyclopentene | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1=CCC[C@H]1CC1=CC(=CC=C1)O | C27H23NO2
reactant | potassium carbonate | 1.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 0.98 g | BrCC(=O)OC | C3H5BrO2
reactant | potassium iodide | [I-].[K+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1M, 9 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (+)-methyl [3-[[(1S)-2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl]phenoxy]acetate | 2.10 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@H](CCC1)CC=1C=C(OCC(=O)OC)C=CC1 | C30H27NO4
